US06995144B2
(E)-3-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-1H-pyrazin-2-one
After dissolving 296 mg of (E)-3-[4-[2-(2-fluorophenyl)vinyl]piperidino]methyl-2-methoxypyrazine in 5 ml of ethanol, 1 ml of thionyl chloride was added and the mixture was heated to reflux for 9 hours. Aqueous sodium carbonate solution was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue and the mixture was filtered to obtain the title compound (180 mg, 63% yield).

reactant | (E)-3-[4-[2-(2-fluorophenyl)vinyl]piperidino]methyl-2-methoxypyrazine | 296 mg | FC1=C(C=CC=C1)/C=C/C1CCN(CC1)CC=1C(=NC=CN1)OC | C19H22FN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
product | (E)-3-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-1H-pyrazin-2-one | 180 mg, 63% yield | FC1=C(C=CC=C1)/C=C/C1CCN(CC1)CC=1C(NC=CN1)=O | C18H20FN3O
